US08541404B2
A solution of 3-chloropropanoyl chloride (9.1 ml, 95.0 mmol) in 20 ml dry acetone was added dropwise to a solution of 1,2,3,4-tetrahydroquinoline (26.6 g, 0.20 mol) in 80 ml dry acetone and the mixture was refluxed for 1 h. After cooling to ambient temperature the solution was poured into 500 ml stirred 2N HCl and extracted with ethyl acetate (3×150 ml). After washing with 1N HCl and brine and drying over MgSO4 the solvent was removed under reduced pressure and the crude product was obtained as a pale yellow solid. This was added portionwise to a molten mixture of AlCl3 (60.0 g, 0.45 mol) and NaCl (17.5 g, 300 mmol) at 150° C. and stirred for additional 30 minutes. On cooling, excess aluminum chloride was decomposed by the addition of a chilled mixture of 20 ml concentrated hydrochloric acid and 500 ml water. Extraction with ethyl acetate (3×200 ml), followed by drying over MgSO4 and removal of the solvent gave 1,2,6,7-tetrahydro-5H-pyrido[3,2,1-ij]quinolin-3-one (15.6 g, 83.3 mmol, 88%) as a yellow solid.

reactant | 3-chloropropanoyl chloride | 95.0 mmol, 9.1 ml | ClCCC(=O)Cl | C3H4Cl2O
reactant | 1,2,3,4-tetrahydroquinoline | 0.20 mol, 26.6 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | HCl | 2N | Cl | ClH
reactant | AlCl3 | 0.45 mol, 60.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | NaCl | 300 mmol, 17.5 g | [Na+].[Cl-]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | water | 500 ml | O | H2O
product | 1,2,6,7-tetrahydro-5H-pyrido[3,2,1-ij]quinolin-3-one | 83.3 mmol, 15.6 g, 88% | C1CC(N2C3=C(C=CC=C13)CCC2)=O | C12H13NO
